US07253286B2
2-Butyroylamino-4-(4-nitrophenoxy)pyridine
Butyroyl chloride (0.93 ml) was added dropwise to a stirred solution of 2-amino-4-(4-nitrophenoxy)pyridine (1.0 g), triethylamine (1.8 ml) and tetrahydrofuran (20 ml) at room temperature. After stirring for 1 hour, water was added, extraction was performed with ethyl acetate, the extract was dried over magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethylacetate=2:1) to obtain 0.6 g of the target substance as a colorless oil.

reactant | Butyroyl chloride | 0.93 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | 2-amino-4-(4-nitrophenoxy)pyridine | 1.0 g | NC1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Butyroylamino-4-(4-nitrophenoxy)pyridine | C(CCC)(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C15H15N3O4
